US06093816
Example 2 Synthesis of Dimyristylamine
N-myristyl myristamide Myristoyl chloride (2.5 g; 10 mmole) was added to a room temperature methylene chloride solution of n-tetradecylamine (2.1 g; 10 mmole, TCI chemicals) and DBU (2.3 g; 15 mmole). The resulting mixture was stirred at room temperature for 4 hours, diluted with CH2Cl2, washed with brine solution, dried, and purified by column chromatography on silica gel, to give 3.40 g, 80.9% of product. 1H NMR (CDCl3): δ 5.38 (6s, 1H), 3.24 (q, 2H), 2.16 (t, 2H, J=7.8 Hz), 1.58-1.66 m, 2H), 1.40-1.57 (m, 2H), 1.20-1.40 (m, 42H), 0.89 (t, 6H).

reactant | N-myristyl myristamide Myristoyl chloride | 10 mmole, 2.5 g | C(CCCCCCCCCCCCC)(=O)Cl.C(CCCCCCCCCCCCC)(=O)NCCCCCCCCCCCCCC
reactant | n-tetradecylamine | 10 mmole, 2.1 g | C(CCCCCCCCCCCCC)N | C14H31N
reactant | DBU | 15 mmole, 2.3 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Dimyristylamine | 3.40 g, 80.9% | C(CCCCCCCCCCCCC)NCCCCCCCCCCCCCC | C28H59N
